US07230098B2
To a solution of 3-benzyloxy-5-phenyl-pyridin-2-ylamine (Example I-87, 3.27 g, 11.8 mmol) in methanol (30 mL) was added Pd(OH)2 (2.5 g, 2.37 mmol). The mixture was degassed and charged with hydrogen three times, and then stirred under hydrogen balloon for 5 hr. The reaction was filtered through a celite pad, washed with methanol, and condensed. After high vacuum dry, 2-amino-5-phenyl-pyridin-3-ol was obtained (2.04 g, 93% yield). MS m/z 187 [M+1].

reactant | 3-benzyloxy-5-phenyl-pyridin-2-ylamine | 11.8 mmol, 3.27 g | C(C1=CC=CC=C1)OC=1C(=NC=C(C1)C1=CC=CC=C1)N | C18H16N2O
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd(OH)2 | 2.37 mmol, 2.5 g | [OH-].[OH-].[Pd+2]
product | 2-amino-5-phenyl-pyridin-3-ol | 93% yield | NC1=NC=C(C=C1O)C1=CC=CC=C1 | C11H10N2O
